* AD8622/AD8624 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 5/30V, BIP, OP, Low Noise, RRO, 2X
* Developed by: VW ADSJ
* Revision History: 01/22/2013 - Updated Begin Notes VSY=+/-15V
* 08/10/2012 - Updated to new header style
* 12/03/2015 - Revised H1, HN and DNOISE(KF) for offset voltage and noise density adjustment. Adjusted CMRR values. RV
* 2.0 (01/2010)
* Copyright 2009, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes: VSY=+/-15V, T=25°C
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node Assignments
*		        noninverting input
*	            	|	inverting input
*		        |	|	positive supply
*		        |	|	|	negative supply
*		        |	|	|	|	output
*		        |	|	|	|	|
*		        |	|	|	|	|
.SUBCKT AD8622		1 	2 	99 	50 	45 
*
*INPUT STAGE
*
Q1   15 7 60 NIX
Q2   6 2 61 NIX
IOS  1 2 1.75E-11
I1  5 50 50e-6
EOS  7  1 POLY(4) (14,98) (73,98) (81,98) (70,98)  10e-6 1 1 1 1
RC1  11 15 2.6E4
RC2  11 6 2.6E4
RE1 60 5 0.896E2
RE2 61 5 0.896E2
C1   15 6 6.25E-13
D1  50 9 DX
V1  5  9 DC 0.3
D10 99 10 DX 
V6 10 11 0.3 
*
* CMRR
*
ECM   13 98 POLY(2) (1,98) (2,98) 0 7.192E-4 7.192E-4
RCM1  13 14 2.15E1
RCM2  14 98 5.31E-3
CCM1  13 14 1E-4
*
* PSRR
*
EPSY 72 98 POLY(1) (99,50) -1.683 0.056
CPS3 72 73 1E-6
RPS3 72 73 7.9577E+0
RPS4 73 98 1.5915E-3
*
* EXTRA POLE AND ZERO
*
G1 21 98 (6,15) 1E-6 
R1 21 98 1E6
R2 21 22 7E5
C2 22 98 1.7614E-12
D3 21 99 DX
D4 50 21 DX
*
* VOLTAGE NOISE 
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 8.25
RN2 81 98 1
*
* FLICKER NOISE 
*
D5 69 98 DNOISE
VSN 69 98 DC .6551
H1 70 98 VSN 2
RN 70 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
GSY  99 50 POLY(1) (99,50) -25E-6 1.7495E-8     
*
* GAIN STAGE
*
G2  98 25 (21,98) 1E-6
R5  25 98 9.9E7
CF  45 25 2.69E-12
V4 25 33 5.3
D7 51 33 DX
EVN 51 98 (50,99) 0.5
V3 32 25 5.3
D6 32 97 DX
EVP 97 98 (99,50) 0.5
*
* OUTPUT STAGE
*
Q3   45 41 99 POUT
Q4   45 43 50 NOUT
RB1  40 41 7.25E4
RB2  42 43 7.25E4
EB1  99 40 POLY(1) (98,25) 0.7153  1
EB2  42 50 POLY(1) (25,98) 0.7153  1
*
* MODELS
*
.MODEL NIX NPN (BF=71429,IS=1E-16)
.MODEL POUT PNP (BF=200,VAF=50,BR=70,IS=1E-15,RC=71.25)
.MODEL NOUT NPN (BF=200,VAF=50,BR=22,IS=1E-15,RC=29.2)
.MODEL DX D(IS=1E-16, RS=5, KF=1E-15)
.MODEL DNOISE D(IS=1E-16,RS=0,KF=4.095E-12)

.ENDS AD8622
*$